US05192785
1-(3-Hydroxypropyl)indoline
A stirred reaction mixture consisting of 22.5 ml (0.20 mole) of indoline, 29.8 ml (0.3 mole) of 3-chloropropanol, 41.4 g (0.30 mole) of potassium carbonate, 0.5 g of tetra-n-butylammonium bromide, 150 ml of toluene, and 50 ml of water was heated at reflux temperature for 5 hr. An additional 15 ml (0.15 mole) of 3-chloropropanol was added and reflux continued for an additional 23 hr. Thin layer chromatographic (TLC) analysis (10% ethyl acetate in methylene chloride) showed the reaction to be about 50% complete. Additional potassium carbonate (20 g), tetra-n-butylammonium bromide (0.5 g) and 3-chloropropanol (15 ml) were added to the reaction mixture which was then heated at reflux temperature for another 18 hr. Tlc analysis showed the reaction to be 66% complete. The mixture was diluted with water and toluene. The toluene layer was separated, washed twice with water, and then extracted twice with 2N hydrochloric acid solution. The acid extracts were washed once with toluene and combined. Toluene was added to the acid extract and the mixture basified by agitating while adding 50% sodium hydroxide solution. The organic layer was separated, washed with water, and the wash back-extracted with toluene. The toluene solutions were combined, dried (sodium sulfate) and concentrated to give 25.7 g of a dark brown oil which was purified by chromatography on a 300 g column of silica gel using increasing portions of ethyl acetate in methylene chloride to elute the desired product (12.3 g).

reactant | indoline | 0.20 mole, 22.5 ml | N1CCC2=CC=CC=C12 | C8H9N
reactant | 3-chloropropanol | 0.3 mole, 29.8 ml | ClCCCO | C3H7ClO
reactant | potassium carbonate | 0.30 mole, 41.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloropropanol | 0.15 mole, 15 ml | ClCCCO | C3H7ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloropropanol | 15 ml | ClCCCO | C3H7ClO
catalyst | tetra-n-butylammonium bromide | 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | tetra-n-butylammonium bromide | 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-Hydroxypropyl)indoline | 25.7 g | OCCCN1CCC2=CC=CC=C12 | C11H15NO
